US03979408
2-(3,4-Dicarbethoxy-2,5-diethyl-pyrrol-1-yl)amino-4,5-dihydro-1H-imidazole hydrobromide.
The compound is obtained following substantially the method described in Example 3, by reacting 13 g. (0.0455 mole) of diethyl-2,3-dipropionyl-succinate with 8.14 g. (0.0449 mole) of 2-hydrazino-4,5-dihydro-1H-imidazole hydrobromide. Yield 55 g. M.p. 181°-2°C (from isopropanol/diethyl ether). The free base melts at 155°C (from diethyl ether).

reactant | diethyl-2,3-dipropionyl-succinate | 0.0455 mole | C(C)OC(C(C(C(=O)OCC)C(CC)=O)C(CC)=O)=O | C14H22O6
reactant | 2-hydrazino-4,5-dihydro-1H-imidazole hydrobromide | 0.0449 mole | Br.N(N)C=1NCCN1
reactant | isopropanol diethyl ether | C(C)(C)O.C(C)OCC
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(3,4-Dicarbethoxy-2,5-diethyl-pyrrol-1-yl)amino-4,5-dihydro-1H-imidazole hydrobromide | Br.C(=O)(OCC)C1=C(N(C(=C1C(=O)OCC)CC)NC=1NCCN1)CC | InChI=1S/C17H26N4O4.BrH/c1-5-11-13(15(22)24-7-3)14(16(23)25-8-4)12(6-2)21(11)20-17-18-9-10-19-17;/h5-10H2,1-4H3,(H2,18,19,20);1H
